US08076491B2
To 4-methoxybenzenamine (580 mg, 4.71 mmol) and triethylamine (1.48 mL, 10.7 mmol) in dichloromethane (10 mL) was added methyl 4-(chlorosulfonyl)benzoate (1.00 g, 4.28 mmol). This mixture was stirred for 16 hours at room temperature. The reaction was diluted with dichloromethane (50 mL) and washed consecutively with water, 10% citric acid, and brine. The organics were dried over sodium sulfate and concentrated via rotovap. The resulting crude material was chromatographed on silica gel using 100% dichloromethane as eluent affording Methyl 4-(N-(4-methoxyphenyl)sulfamoyl)benzoate as a white crystalline solid (400 mg, 30% yield)

reactant | 4-methoxybenzenamine | 4.71 mmol, 580 mg | COC1=CC=C(C=C1)N | C7H9NO
reactant | triethylamine | 10.7 mmol, 1.48 mL | C(C)N(CC)CC | C6H15N
reactant | methyl 4-(chlorosulfonyl)benzoate | 4.28 mmol, 1.00 g | ClS(=O)(=O)C1=CC=C(C(=O)OC)C=C1 | C8H7ClO4S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | Methyl 4-(N-(4-methoxyphenyl)sulfamoyl)benzoate | 400 mg, 30% yield | COC1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C(=O)OC)C=C1 | C15H15NO5S
